US07432287B2
Preparation of 5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(1,3,4-thiadiazol-2-ylsulfanyl)benzamide
The compound of Production Example 124 was obtained as a colorless amorphous substance using 3-hydroxy-5-iodobenzoic acid methyl ester, 1-tert-dimethylsiloxy-2-hydroxypropane, 2-mercapto-[1,3,4]thiadiazole and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 74 or 82, a corresponding method, or a combination thereof with an ordinary method.

reactant | 3-hydroxy-5-iodobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)I)O)=O | C8H7IO3
reactant | 2-mercapto-[1,3,4]thiadiazole | SC=1SC=NN1 | C2H2N2S2
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(1,3,4-thiadiazol-2-ylsulfanyl)benzamide | OCC(OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)SC=1SC=NN1)C | C16H17N5O3S2
